US07842685B2
Synthesis of 3-fluoro-N-(2-hydroxyethyl)-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide
The title compound was synthesized using the procedure described in Example 105 above, with 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (97 mg, 0.248 mmol) and ethanolamine (18 μl, 0.298 mmol). MS (ESI) m/z: Calculated: 433.1; Observed: 434.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 0.248 mmol, 97 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | ethanolamine | 0.298 mmol, 18 μl | C(O)CN | C2H7NO
product | 3-fluoro-N-(2-hydroxyethyl)-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide | FC=1C=C(C(=O)NCCO)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C24H20FN3O2S
